US08895761B2
To a degassed solution of N-(4-bromo-2-ethylphenyl)acetamide (20 g, 0.082 mol) in toluene (1200 ml) and ethanol (400 ml), 4-chlorobenzene boronic acid (15.5 g, 0.099 mol) is added under an atmosphere of nitrogen, and the reaction mixture is heated to 80° C. Tetrakis(triphenylphosphine)palladium(0) (2.0 g, 0.0017 mol) is added followed by 2M aqueous potassium carbonate solution (160 ml). The reaction mixture is refluxed for 4 hours then cooled to room temperature. The reaction mass is filtered through diatomaceous earth, and the filtrate is evaporated under reduced pressure. The residue is partitioned between ethyl acetate and water. The aqueous phase is extracted with ethyl acetate (3×500 ml) and the organic solutions are combined and concentrated under reduced pressure to give N-(4′-chloro-3-ethylbiphen-4-yl)acetamide (20.5 g).

reactant | N-(4-bromo-2-ethylphenyl)acetamide | 0.082 mol, 20 g | BrC1=CC(=C(C=C1)NC(C)=O)CC | C10H12BrNO
reactant | 4-chlorobenzene boronic acid | 0.099 mol, 15.5 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 2M, 160 ml | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.0017 mol, 2.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(4′-chloro-3-ethylbiphen-4-yl)acetamide | 20.5 g | ClC1=CC=C(C2=CC=C(C(=C2)CC)NC(C)=O)C=C1 | C16H16ClNO
